US08349824B2
A mixture of 2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine (197 mg, 969 μmol), 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (231 mg, 1.16 mmol), propylphosphonic anhydride (50% in ethyl acetate, 1.43 ml, 2.42 mmol) and N,N-diisopropylethylamine (494 μl, 2.91 mmol) in tetrahydrofuran (10 ml) was refluxed for 18 hours. The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water and dried affording 1-methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester (327 mg, 88.0%) as a light brown solid. mp: 233-234° C., MS: m/z=384.5 (M+H+).

reactant | 2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 969 μmol, 197 mg | N1(CCCC1)C1=NN2C(C=C(C=C2)N)=N1 | C10H13N5
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 1.16 mmol, 231 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
reactant | propylphosphonic anhydride | 2.42 mmol, 1.43 ml | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 2.91 mmol, 494 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 327 mg, 88.0% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCCC2)=O)C | C18H21N7O3
